US06890940B2
N,N′-Dimethyl-3-(1-pyrrolidinyl)-1,5-pentanediamine
To a solution of N,N′-dibenzyl-N,N′-dimethyl-3-(1-pyrrolidinyl)-1,5-pentanediamine (249.1 mg, 0.657 mmol) in methanol (3.0 mL) were added concentrated hydrochloric acid (0.33 mL, 4.0 mmol) and 10% palladium on charcoal (50.0 mg), and the mixture was stirred at 50° C. for 14 hours under hydrogen. Insoluble materials were removed by filtration through a membrane filter, and the filtrate was concentrated under reduced pressure. The residue was adsorbed on an alumina column, and eluted with methanol-chloroform (1:4). The eluate was concentrated under reduced pressure to afford the title compound as a colorless oil (101.9 mg, yield: 78%).

reactant | N,N′-dibenzyl-N,N′-dimethyl-3-(1-pyrrolidinyl)-1,5-pentanediamine | 0.657 mmol, 249.1 mg | C(C1=CC=CC=C1)N(CCC(CCN(C)CC1=CC=CC=C1)N1CCCC1)C | C25H37N3
reactant | hydrochloric acid | 4.0 mmol, 0.33 mL | Cl | ClH
solvent | methanol | 3.0 mL | CO | CH4O
catalyst | palladium on charcoal | 50.0 mg | [Pd] | Pd
product | N,N′-Dimethyl-3-(1-pyrrolidinyl)-1,5-pentanediamine | 101.9 mg, yield: 78% | CNCCC(CCNC)N1CCCC1 | C11H25N3
